US07696229B2
4. Synthesis of 3-(tetrahydro-2H-pyran-2-yloxy)pyrrolidine
Into a 250 mL round bottom flask was placed a solution of benzyl 3-(tetrahydro-2H-pyran-2-yloxy)pyrrolidine-1-carboxylate (15 g, 44.26 mmol) and Pd/C (2.3 g) in CH3OH (absolute) (100 mL). Hydrogen gas was bubbled. The resulting solution was allowed to react, with stirring, for 2 hours while the temperature was maintained at room temperature. A filtration was performed. The filtrate was concentrated by evaporation under vacuum using a rotary evaporator. This resulted in 5.6 g (67%) of 3-(tetrahydro-2H-pyran-2-yloxy)pyrrolidine as a yellow liquid.

reactant | benzyl 3-(tetrahydro-2H-pyran-2-yloxy)pyrrolidine-1-carboxylate | 44.26 mmol, 15 g | O1C(CCCC1)OC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C17H23NO4
solvent | CH3OH | 100 mL | CO | CH4O
catalyst | Pd/C | 2.3 g | [Pd] | Pd
product | 3-(tetrahydro-2H-pyran-2-yloxy)pyrrolidine | O1C(CCCC1)OC1CNCC1 | C9H17NO2
